US07655657B2
2-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole
5-Bromo-2-methyl-1H-indole (Aldrich, 2.1 g, 10 mmol) was coupled with bis(pinacolato)diboron (Aldrich, 3.05 g, 12 mmol) according to the procedure of Example 26A. The title compound was purified by chromatography (120 g SiO2, hexane:EtOAc, 70:30, Rf. 0.8) as a solid (2.57 g, yield, 43%). 1H NMR (300 MHz, CDCl3) δ 1.35 (s, 12H), 2.40 (s, 3H), 6.06-6.19 (m, 1H), 7.14-7.46 (m, 2H), 7.64-7.93 (m, 1H) ppm. MS (DCI/NH3): 258 (M+H)+.

reactant | 5-Bromo-2-methyl-1H-indole | 10 mmol, 2.1 g | BrC=1C=C2C=C(NC2=CC1)C | C9H8BrN
reactant | bis(pinacolato)diboron | 12 mmol, 3.05 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | CC=1NC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
